US09192604B2
To a solution of 2-[(5-chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]benzoic acid (67 g, 174 mmol) and 1-hydroxybenzotriazole (29.3 g, 191 mmol) in N,N-dimethylformamide (700 mL) was added N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide (36.6 g, 191 mmol) and the solution was stirred for 30 minutes. O-Methylhydroxylamine hydrochloride (15.95 g, 191 mmol) was added and the solution stirred for additional 15 minutes, the cooled down to the 0° C. and diisopropylethlyamine (91 mL, 521 mmol) was added dropwise. The reaction mixture was stirred overnight tat the room temperature. Water (4000 mL) was added and the solution was acidified with acetic acid (20 mL). The solution was extracted 2×2 L of ethyl acetate. The organic was washed with water (1 L), brine, and dried over MgSO4, filtered and evaporated. 2-[(5-Chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]-N-(methyloxy)benzamide (74 g, 164 mmol, 94% yield, 92% pure) was isolated as a yellow foam. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.27 (d, J=6.57 Hz, 6H) 2.10 (s, 3H) 3.71 (s, 3H) 4.39 (quin, J=6.51 Hz, 1H) 5.93 (s, 1H) 6.66 (s, 1H) 7.08-7.19 (m, 1H) 7.49-7.64 (m, 3H) 7.98 (s, 1H) 8.50 (s, 1H) 9.50 (s, 1H) 11.93 (s, 1H).; HPLC Rt=2.13 min, MS (ESI): [M+H]+=415.1.

reactant | 2-[(5-chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]benzoic acid | 174 mmol, 67 g | ClC=1C(=CC(=NC1)NC1=CC(=NN1C(C)C)C)NC1=C(C(=O)O)C=CC=C1 | C19H20ClN5O2
reactant | 1-hydroxybenzotriazole | 191 mmol, 29.3 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide | 191 mmol, 36.6 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | O-Methylhydroxylamine hydrochloride | 191 mmol, 15.95 g | Cl.CON
reactant | diisopropylethlyamine | 521 mmol, 91 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 700 mL | CN(C=O)C | C3H7NO
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | Water | 4000 mL | O | H2O
product | 2-[(5-Chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]-N-(methyloxy)benzamide | 164 mmol, 74 g, 94% yield | ClC=1C(=CC(=NC1)NC1=CC(=NN1C(C)C)C)NC1=C(C(=O)NOC)C=CC=C1 | C20H23ClN6O2
